US09108939B2
G: 1-(2-Amino-2-methylpropyl)-3-(5-chloro-2-fluoro-4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenyl)urea
A solution of 2-(4-((4-(4-amino-2-chloro-5-fluorobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.200 mmol, 100 mg) and 4-nitrophenyl carbonochloridate (0.200 mmol, 40.4 mg) in tetrahydrofuran (5 mL) was stirred at room temperature for 30 minutes. 1-Amino-2-methylpropan-2-ol (0.401 mmol, 0.051 mL, 35.7 mg) was added and the reaction was kept at room temperature overnight. The reaction mixture was concentrated under vacuum and residue purified by silica column chromatography (eluent: dichloromethane-5% methanol in dichloromethane) to afford the title compound (58.5 mg). MS (ESI) m/z 614.1 [M+H]+

reactant | 2-(4-((4-(4-amino-2-chloro-5-fluorobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.200 mmol, 100 mg | NC1=CC(=C(CC2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1F)Cl | C22H22ClF7N2O
reactant | 4-nitrophenyl carbonochloridate | 0.200 mmol, 40.4 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | 1-Amino-2-methylpropan-2-ol | 0.401 mmol, 0.051 mL, 35.7 mg | NCC(C)(O)C | C4H11NO
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-(2-Amino-2-methylpropyl)-3-(5-chloro-2-fluoro-4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenyl)urea | 58.5 mg | NC(CNC(=O)NC1=C(C=C(C(=C1)Cl)CC1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)F)(C)C | C27H32ClF7N4O2
